US06890938B2
2-{5-[1-(4-Fluoro-benzyl)-piperidine-4-carbonyl]-6-methoxy-1-methyl-1H-indol-3-yl}-N,N-dimethyl-2-oxo-acetamide
144 mg of 2-[6-Methoxy-1-methyl-5-(piperidine-4-carbonyl)-1H-indol-3-yl]-N,N-dimethyl-2-oxo-acetamide (0.39 mMol) is dissolved in 10 ml EtOH followed by the addition of 0.05 ml of 4-fluorobenzyl bromide (0.4 mMol). The reaction mixture is stirred at room temperature over night. After removing the solvent, residue is taken up in CH2Cl2 and washed with H2O, brine, dried over anhydrous sodium sulfate and concentrated. Silica gel column separation (2% MeOH in CH2Cl2) then gives 133 mg of product.

reactant | 2-[6-Methoxy-1-methyl-5-(piperidine-4-carbonyl)-1H-indol-3-yl]-N,N-dimethyl-2-oxo-acetamide | 0.39 mMol, 144 mg | COC1=C(C=C2C(=CN(C2=C1)C)C(C(=O)N(C)C)=O)C(=O)C1CCNCC1 | C20H25N3O4
reactant | 4-fluorobenzyl bromide | 0.4 mMol, 0.05 ml | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | EtOH | 10 ml | CCO | C2H6O
product | 2-{5-[1-(4-Fluoro-benzyl)-piperidine-4-carbonyl]-6-methoxy-1-methyl-1H-indol-3-yl}-N,N-dimethyl-2-oxo-acetamide | 133 mg | FC1=CC=C(CN2CCC(CC2)C(=O)C=2C=C3C(=CN(C3=CC2OC)C)C(C(=O)N(C)C)=O)C=C1 | C27H30FN3O4
